US07612212B2
(4-Bromo-phenyl)-tert-butoxycarbonylamino-acetic acid (780 mg, 2.4 mmol) was dissolved in N,N-dimethylformamide (15 mL) and to this was added potassium hydrogen carbonate (260 mg, 2.6 mmol) followed by benzyl bromide (281 μL, 2.4 mmol) and stirring continued at ambient temperature for 6 hours. The reaction was poured into water (50 mL) and extracted with ethyl acetate (2×60 mL). The organic extracts were washed with water (2×20 mL), brine, dried over sodium sulfate and filtered through a layer of silica gel. The filtrate was concentrated in vacuo and the residue crystallized from 100% hexane to give (4-bromo-phenyl)-tert-butoxycarbonylamino-acetic acid benzyl ester (500 mg, 50%).

reactant | (4-Bromo-phenyl)-tert-butoxycarbonylamino-acetic acid | 2.4 mmol, 780 mg | BrC1=CC=C(C=C1)C(C(=O)O)NC(=O)OC(C)(C)C | C13H16BrNO4
reactant | potassium hydrogen carbonate | 2.6 mmol, 260 mg | C(O)([O-])=O.[K+]
reactant | benzyl bromide | 2.4 mmol, 281 μL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 50 mL | O | H2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | (4-bromo-phenyl)-tert-butoxycarbonylamino-acetic acid benzyl ester | 500 mg, 50% | C(C1=CC=CC=C1)OC(C(NC(=O)OC(C)(C)C)C1=CC=C(C=C1)Br)=O | C20H22BrNO4
